US08710245B2
(d) Synthesis of tert-butyl (2-(pyridin-3-yl)-6,7-dihydro-4H-thieno[3,2-c]pyran-4-yl)methylcarbamate
A mixture of tert-butyl (2-bromo-6,7-dihydro-4H-thieno[3,2-c]pyran-4-yl)methylcarbamate (500 mg, 1.44 mmol), pyridine-3-boronic acid (351 mg, 2.88 mmol), Pd(OAc)2 (33 mg), PPh3 (170 mg, 0.65 mmol) in 1,4-dioxane was purged with nitrogen. After stirring at room temperature for 0.5 hr, 457 mg of Na2CO3 in 3 mL of H2O was added. The reaction mixture was stirred at 100° C. for 2 hr. After cooling to room temperature, the reaction mixture was poured into 100 mL of water and extracted with EtOAc twice. The combined organic layers were washed with brine, dried over Na2SO4, concentrated and purified by column chromatography to give the desired product.

reactant | tert-butyl (2-bromo-6,7-dihydro-4H-thieno[3,2-c]pyran-4-yl)methylcarbamate | 1.44 mmol, 500 mg | BrC1=CC=2C(OCCC2S1)CNC(OC(C)(C)C)=O | C13H18BrNO3S
reactant | pyridine-3-boronic acid | 2.88 mmol, 351 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | PPh3 | 0.65 mmol, 170 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 33 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | tert-butyl (2-(pyridin-3-yl)-6,7-dihydro-4H-thieno[3,2-c]pyran-4-yl)methylcarbamate | N1=CC(=CC=C1)C1=CC=2C(OCCC2S1)CNC(OC(C)(C)C)=O | C18H22N2O3S
